US04041173
0.82 G. of 2-carboxy-7-hydroxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene was dissolved in 30 ml of ethanol and a solution of 1.0 g of potassium hydroxide in 5 ml of water was added, followed by 2.0 ml of isopropyl bromide. The reaction was refluxed for 3 hours, then diluted with water and acidified with dilute hydrochloric acid. The product was filtered off and recrystallized from aqueous dimethylformamide to give 2-carboxy-7-isopropoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene, m.p. 174°-177°. By substituting other alkylbromides or iodides such as ethyl bromide, m-propyl bromide, isobutyl bromide, n-amyl bromide, n-hexyl bromide and the like, the corresponding 2-carboxy-7-alkoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptenes are obtained. The 8- and 9- alkoxy compounds are similarly prepared.

reactant | 2-carboxy-7-hydroxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene | C(=O)(O)C1=CC2=C(C(C3=C(CC2)C=CC(=C3)O)=O)C=C1 | C16H12O4
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
reactant | isopropyl bromide | 2.0 ml | C(C)(C)Br | C3H7Br
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 2-carboxy-7-isopropoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene | C(=O)(O)C1=CC2=C(C(C3=C(CC2)C=CC(=C3)OC(C)C)=O)C=C1 | C19H18O4
